US07507734B2
(e) 6-(4-Hydroxy-3,5-dimethyl-phenyl)-4-(3-methyl-1H-indol-2-yl)-2H-pyridazin-3-one
6 mg of 4-[6-Methoxy-5-(3-methyl-1H-indol-2-yl) -pyridazin-3-yl]-2,6-dimethyl-phenol is suspended in 2 ml acetonitrile and 6.5 mg of trimethylsilyl chloride and 9.96 mg of potassium iodide are added. The solution is heated to 80° C. for 3 h. The reaction solution is diluted with water and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 3.8 mg. LC-MS (ES+) 346 (M+H)+.

reactant | 4-[6-Methoxy-5-(3-methyl-1H-indol-2-yl) -pyridazin-3-yl]-2,6-dimethyl-phenol | 6 mg | COC1=C(C=C(N=N1)C1=CC(=C(C(=C1)C)O)C)C=1NC2=CC=CC=C2C1C | C22H21N3O2
reactant | trimethylsilyl chloride | 6.5 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | potassium iodide | 9.96 mg | [I-].[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-(4-Hydroxy-3,5-dimethyl-phenyl)-4-(3-methyl-1H-indol-2-yl)-2H-pyridazin-3-one | OC1=C(C=C(C=C1C)C=1C=C(C(NN1)=O)C=1NC2=CC=CC=C2C1C)C | C21H19N3O2
